US04963544
To a solution of 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.61 g) in tetrahydrofuran (3 ml) was added methyl iodide (2 ml) and stirred at ambient temperature for 15 hours. The mixture was concentrated under reduced pressure to give crude 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-2-(3-methyl-1-imidazolio)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (0.80 g).

reactant | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.61 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C=NC=C1)C | C33H34N6O10S
reactant | methyl iodide | 2 ml | CI | CH3I
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-2-(3-methyl-1-imidazolio)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 0.80 g | [I-].O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C[N+]1=CN(C=C1)C)C | InChI=1S/C34H37N6O10S.HI/c1-20-29-28(21(2)41)32(42)38(29)30(33(43)49-17-22-4-8-24(9-5-22)39(45)46)31(20)51-27-14-26(15-36-13-12-35(3)19-36)37(16-27)34(44)50-18-23-6-10-25(11-7-23)40(47)48;/h4-13,19-21,26-29,41H,14-18H2,1-3H3;1H/q+1;/p-1/t20-,21-,26+,27+,28-,29-;/m1./s1
